US08623859B2
N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (100 mg, 0.3 mmol), CDI (195 mg, 0.6 mmol) and 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]methanamine (52 mg, 0.3 mmol) in DCE (6 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.3 mmol, 100 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.6 mmol, 195 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]methanamine | 0.3 mmol, 52 mg | N1C(=NCC1)C1=CC=C(C=C1)CN | C10H13N3
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
product | N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | N1C(=NCC1)C1=CC=C(CNC(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C=C1 | C26H30N4O5S
